2188-06-20 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Confirmed started on vanc/zosyn yesterday for sacral decub
   - Stool for C. diff sent
   - D/c'd PICC
   - Wound saw him and probed to bone. They recommended [**Last Name (un) 8137**] AMD kerlex
   and potentially a ct scan.
   - CXR was read as possible abscess so sent him for CT chest and while
   was there also got CT L spine that [**Hospital **] rehab docs had told dtrs he
   needed for his sacral decub. CT Chest showed no abscess: WET READ: No
   lung abscess Decreased simple pleural effusions. Multifocal mostly
   perihilar and dependent ground-glass opacity, consolidation and septal
   thickening, DDx pneumonia hemorrhage or symm edema Basal
   bronchiectasis. Upper lobe predominant emphysema.
   - Placed a-line and weaned pressors. Stopped vasopressin.
   - [**First Name8 (NamePattern2) 54**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4897**] (ID) no need for rifampin while on broad spectrum
   abx so was d/c'd.
   - AM Hct 22 from 25 at 8am yesterday and 33.5 on admission (although
   suspect hemoconcentration). getting 1unit pRBCs this am. Guaiac stools.
   Hemolysis labs sent.
   - Required NC at 4L overnight for sats 94%. Am ABG pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-6-19**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-6-20**] 12:27 AM
   Vancomycin - [**2188-6-20**] 05:38 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-6-19**] 09:12 PM
   Heparin Sodium (Prophylaxis) - [**2188-6-20**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-6-20**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 74 (74 - 105) bpm
   BP: 110/50(63) {98/30(48) - 144/84(91)} mmHg
   RR: 24 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (6 - 11)mmHg
   Mixed Venous O2% Sat: 76 - 86
   Total In:
                                                                  1,563 mL
                                                                    436 mL
   PO:
   TF:
   IVF:
                                                                  1,563 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    970 mL
   Urine:
                                                                  1,225 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    338 mL
                                                                   -534 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.41/36/74/21/0
   PaO2 / FiO2: 211
   Physical Examination
   GEN: NAD
   HEENT: NC/AT sclera anicteric Dry MM
   LUNGS: Crackles bilaterally anteriorly
   HEART: RRR
   ABD: Soft. NT/ND
   EXTREM: No edema
   NEURO: Sleeping but arousable. Oriented to person and place.
   Labs / Radiology
   270 K/uL
   7.4 g/dL
   86 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   23 mg/dL
   107 mEq/L
   137 mEq/L
   22.4 %
   12.5 K/uL
        [image002.jpg]
                             [**2188-6-19**]  08:32 AM
                             [**2188-6-19**]  05:00 PM
                             [**2188-6-20**]  03:35 AM
                             [**2188-6-20**]  06:09 AM
   WBC
   12.5
   Hct
   25.3
   22.4
   Plt
   270
   Cr
   0.9
   0.7
   TCO2
   24
   Glucose
   113
   118
   86
   Other labs: Lactic Acid:1.0 mmol/L, LDH:199 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Imaging:
   CT Chest:
   No lung abscess Decreased simple pleural effusions. Multifocal mostly
   perihilar and dependent ground-glass opacity, consolidation and septal
   thickening, DDx pneumonia hemorrhage or symm edema Basal bronchiectasis
   Upper lobe predominant emphysema.
   Assessment and Plan
   This is a 83 yo M with recent prolonged hospital course for MSSA
   prosthetic joint arthritis and respiratory failure s/p trach
   decanulation now with sepsis after aspiration event.
   .
   #  Septic Shock: Most likely source sacral decub given probe to bone by
   wound care vs aspiration PNA although chest CT without evidence of
   PNA.  Diff also includes line infection (old PICC line pulled).
   - On broad coverage for hospital-acquired respiratory vs. aspiration
   vs. skin/soft tissue source w/ vanc/zosyn/cipro. Consider d/c cipro if
   FR CT shows no PNA as then unlikely to need double pseudamonal
   coverage.
   - Follow up blood, urine cx data
   - Obtain sputum if possible
   - Speech/swallow study
   - Hold on further fluid boluses in setting of DNR/DNI status and
   worsening edema on CXR/CT
   - F/U CT sacral decub for osteo ->would change duration of antbiotic
   therapy
   - Cte to wean pressors. Currently on only small dose of levophed with
   stable pressures. Trend lactate, MvO2
   .
   # Hypoxia: Developed in setting of recent aspiration event. Diff
   includes aspiration pneumonitis vs. pulmonary edema
   - minimize IVF as possible
   - f/u FR CT chest
   - titrate NC to sats >90%
   - broad-spectrum ABX as above
   - aggressive pulmonary toilet
   .
   # H/O MSSA right knee prothestic joint arthritis: followed by ID as
   outpt
   -Per ID recs if on vanc/zosyn can hold rifampin while here but will
   restart again eventually.
   .
   # Sacral Decubitus: Has been evaluated by plastics as outpt. Dtrs
   requested CT scan to look for osteo which doctors at rehab told them he
   needed. This was done yesterday.
   - wound care consulted and recommended specific wound recs
   - CT FR pending
   - Outpt plastic team has been notified of admission
   - Low dose morphine prn for pain
   # Anemia: On admission Hct was 33.5 with all cell counts higher than
   previously. Baseline in OMR 23-25. This am hct lower (22) and still on
   pressors so receiving 1unit pRBCs.
   - Will check hemolysis labs
   - Will guaiac stools
   - Will check post-transfusion hct to ensure adequate bump
   ICU Care
   Nutrition: Start tube feeds today. Nutrition c/s for feeding recs.
   Glycemic Control:  None
   Lines:
   Presep Catheter - [**2188-6-19**] 06:28 AM
   20 Gauge - [**2188-6-19**] 06:30 AM
   Arterial Line - [**2188-6-19**] 05:30 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: H2 blocker
   VAP:  HOB at 30degrees
   Comments:
   Communication:  Comments: With patient and daughters
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU while on pressors but possible d/c to floor later in
   afternoon if stable off pressors. Will keep central line in place on
   transfer to floor; will likely need PICC prior to d/c to Rehab. PT
   consult.

2188-06-21 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Ruled out for MI; transient EKG changes likely rate-related
   - CT L-spine: Inflammatory changes at sacral aspect which extend to
   bony surface with irregular bone appearance suggestive of
   osteomyelitis.  No inflammatory changes further up. Congenital spina
   bifida at S5. MRI would be better for assessment of this.
   - Rifampin held while on Vanc per ID recs
   - Tube feeds started
   - Received 1 unit PRBC for Hct 23.5 and volume expansion as still on
   pressor with no change in post-txn Hct. Received add'l unit with AM Hct
   25.9
   - BP stable with MAP>60 off pressors since 3AM
   - PICC pulled on [**2188-6-20**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-6-20**] 10:00 AM
   Vancomycin - [**2188-6-20**] 08:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-6-21**] 12:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-6-20**] 10:00 AM
   Morphine Sulfate - [**2188-6-20**] 04:15 PM
   Heparin Sodium (Prophylaxis) - [**2188-6-21**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-6-21**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 75 (66 - 82) bpm
   BP: 112/46(62) {93/40(55) - 126/71(77)} mmHg
   RR: 26 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 16 (10 - 16)mmHg
   Total In:
                                                                  2,004 mL
                                                                    595 mL
   PO:
   TF:
                                                                    100 mL
                                                                    222 mL
   IVF:
                                                                  1,343 mL
                                                                    183 mL
   Blood products:
                                                                    561 mL
   Total out:
                                                                  2,770 mL
                                                                    480 mL
   Urine:
                                                                  2,770 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -766 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented to place and month, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD, airleak at trach stoma, covered
   w/ dressing
   Lungs: decreased BS at right base, coarse crackles throughout lower
   lung fields, no wheezing, good air movement, no accessory muscle use
   CV: Tachy, Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: clean/dry/non-tender g-tube site, soft, non-tender,
   non-distended, bowel sounds present, no rebound tenderness or guarding,
   no organomegaly
   Back: Large 10 x8 cm stage III/VI sacral decub w/ scant tan discharge
   Ext: Warm, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   243 K/uL
   8.7 g/dL
   102 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   21 mg/dL
   107 mEq/L
   137 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2188-6-19**]  08:32 AM
                             [**2188-6-19**]  05:00 PM
                             [**2188-6-20**]  03:35 AM
                             [**2188-6-20**]  05:54 AM
                             [**2188-6-20**]  06:09 AM
                             [**2188-6-20**]  12:20 PM
                             [**2188-6-21**]  02:20 AM
   WBC
   12.5
   9.4
   Hct
   25.3
   22.4
   23.5
   23.5
   25.9
   Plt
   270
   243
   Cr
   0.9
   0.7
   0.7
   TropT
   0.11
   TCO2
   24
   Glucose
   113
   118
   86
   102
   Other labs: PT / PTT / INR:15.9//1.4, CK / CKMB / Troponin-T:44//0.11,
   Alk Phos / T Bili:/0.5, Lactic Acid:1.0 mmol/L, LDH:199 IU/L, Ca++:7.9
   mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   CT chest (wet read): No lung abscess. Decreased simple pleural
   effusions. Multifocal mostly perihilar and dependent ground-glass
   opacity, consolidation and septal thickening, DDx pneumonia,
   hemorrhage, or symm edema. Basal bronchiectasis. Upper lobe predominant
   emphysema.
   CT T-spine (wet read):
   1. Inflammatory changes in the soft tissues posterior to sacrococcygeal
   junction, extending to the bony surface, osteomyelitis not excluded at
   this level. MR would provide superior detail to evaluate spinal canal
   contents and
   possible involvement of inflammatory process, and should be considered.
   2. Multilevel degenerative changes with severe multifactorial spinal
   canal stenosis at L4-5 level and moderate canal stenosis at L3-4 level.
   Assessment and Plan
   83 yo M with recent prolonged hospital course for MSSA prosthetic joint
   arthritis and respiratory failure s/p trach decanulation now with
   sepsis after aspiration event.
   .
   #  Shock: Likely [**2-11**] aspiration pneumonia c/b sepsis. Pt remained
   afebrile with resolution of leukocytosis on broad abx coverage;
   pressors weaned off overnight. Cx neg to date other than yeast in
   urine. C. diff neg.
   - cont broad coverage w/ vanc/zosyn likely treat for 7-8 days
   - follow up blood cx
   - obtain sputum if possible
   .
   # Anemia: Unclear source, but trace guaiac positive.  Transfused 2 U
   yesterday with bump only 2 pts.  Stable Hct overnight.
   - Hct daily
   - transfuse for Hct<21
   - active T&S
   .
   # Hypoxia: Developed in setting of recent aspiration event. Ddx
   includes aspiration pneumonitis vs. pneumonia vs. pulmonary edema.
   - No IVF for now
   - Continue to Wean O2 as tolerated.
   - Broad-spectrum abx as above
   - Aggressive pulmonary toilet
   .
   # H/O MSSA right knee prothestic joint arthritis: followed by ID as
   outpt
   - Holding rifampin 300mg po daily while on Vanc per ID recs
   - place PICC and D/c Central LIne
   .
   # Sacral Decubitus: Evidence of osteo on CT L-spine; also probes to
   bone
   - Appreciate plastics recs re: wound care
   - t/b with plastics about abx course (likely months)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2188-6-20**] 06:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2188-6-19**] 06:28 AM
   20 Gauge - [**2188-6-19**] 06:30 AM
   Arterial Line - [**2188-6-19**] 05:30 PM
   Prophylaxis:
   DVT: Boots, SQ heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Patient, [**Telephone/Fax (1) 8117**] daughter/HCP([**Name (NI) **]
   [**Last Name (NamePattern1) **]), son is [**Name2 (NI) **] physician
   [**Name9 (PRE) 36**] status: DNR / DNI, confirmed w/ Daughter & family. A-line OK ; any
   further procedures should be discussed w/ HCP first.
   Disposition: Call out to floor, PT consulted